US07893088B2
A solution of the methanesulfonic acid (1R,3S)-3-(tert-butoxycarbonyl-aminomethyl)cyclopentyl ester in N,N-dimethylformamide (2 ml) was added over 15 minutes to a stirred solution of 6-hydroxy-2H-isoquinolin-1-one (161 mg, 1 mmol) and potassium carbonate (276 mg) in N, N-dimethylformamide (2 ml) at 100° C. The mixture was stirred at 90° C. for 4 h then allowed to cool to ambient temperature and stirred overnight. Saturated aqueous NaHCO3 was added, the mixture was extracted with chloroform: isopropanol (3:1) and the organic phase concentrated in vacuo to give a residue. A dichloromethane: trifluoroacetic acid solution (3:1, 3 ml) was added to the residue and the resultant mixture stirred for 3.5 h, then concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column using methanol and eluted with 2M ammonia in methanol to afford crude (1R,3S)-6-(3-aminomethylcyclopentyloxy)-2H-isoquinolin-1-one, which was purified by prep-HPLC (2 mg); EI-MS: m/z=259.1 [M+H]+.

reactant | methanesulfonic acid (1R,3S)-3-(tert-butoxycarbonyl-aminomethyl)cyclopentyl ester | C(C)(C)(C)OC(=O)C([C@@H]1C[C@@H](CC1)OS(=O)(=O)C)N | C12H23NO5S
reactant | 6-hydroxy-2H-isoquinolin-1-one | 1 mmol, 161 mg | OC=1C=C2C=CNC(C2=CC1)=O | C9H7NO2
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N, N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1R,3S)-6-(3-aminomethylcyclopentyloxy)-2H-isoquinolin-1-one | NC[C@@H]1C[C@@H](CC1)OC=1C=C2C=CNC(C2=CC1)=O | C15H18N2O2
